US08039495B2
A mixture of 4-bromo-3-fluorophenol (18.34 g, 96 mmol), 3-bromomethylbenzoic acid methyl ester (20 g, 87.3 mmol), potassium carbonate (13.3 g, 96 mmol), and acetone (300 mL) was heated to reflux overnight, followed by cooling to room temperature and filtered. The filtrate was evaporated. The solid was washed with water and cold MeOH to give 3-(4-bromo-3-fluoro-phenoxymethyl)-benzoic acid methyl ester, 28 g (72%). LC-MS (ES) calculated for C15H12BrFO3, 338; obsd 339 [M+H]+.

reactant | 4-bromo-3-fluorophenol | 96 mmol, 18.34 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | 3-bromomethylbenzoic acid methyl ester | 87.3 mmol, 20 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
reactant | potassium carbonate | 96 mmol, 13.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 3-(4-bromo-3-fluoro-phenoxymethyl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)COC1=CC(=C(C=C1)Br)F)=O | C15H12BrFO3
